*-- pdngen: spice deck generated for chip 'chiplet2' PDN
*-- die chiplet2:  W/H: 0.002/0.004


.subckt chiplet2
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_0_7
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_1_6
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_2_7
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_3_6
*-- p/g port #: 16/16
+nd_1_0_5000_6500

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_500 nd_1_0_3000_500 0.016324
rd_1_2_0_0_1 nd_1_0_3000_500 nd_1_0_5000_500 0.016324
rd_1_2_0_0_2 nd_1_0_5000_500 nd_1_0_7000_500 0.016324
rd_1_2_0_0_3 nd_1_0_7000_500 nd_1_0_9000_500 0.016324
rd_1_2_0_1_0 nd_1_0_1000_1500 nd_1_0_3000_1500 0.016324
rd_1_2_0_1_1 nd_1_0_3000_1500 nd_1_0_5000_1500 0.016324
rd_1_2_0_1_2 nd_1_0_5000_1500 nd_1_0_7000_1500 0.016324
rd_1_2_0_1_3 nd_1_0_7000_1500 nd_1_0_9000_1500 0.016324
rd_1_2_0_2_0 nd_1_0_1000_2500 nd_1_0_3000_2500 0.016324
rd_1_2_0_2_1 nd_1_0_3000_2500 nd_1_0_5000_2500 0.016324
rd_1_2_0_2_2 nd_1_0_5000_2500 nd_1_0_7000_2500 0.016324
rd_1_2_0_2_3 nd_1_0_7000_2500 nd_1_0_9000_2500 0.016324
rd_1_2_0_3_0 nd_1_0_1000_3500 nd_1_0_3000_3500 0.016324
rd_1_2_0_3_1 nd_1_0_3000_3500 nd_1_0_5000_3500 0.016324
rd_1_2_0_3_2 nd_1_0_5000_3500 nd_1_0_7000_3500 0.016324
rd_1_2_0_3_3 nd_1_0_7000_3500 nd_1_0_9000_3500 0.016324
rd_1_2_0_4_0 nd_1_0_1000_4500 nd_1_0_3000_4500 0.016324
rd_1_2_0_4_1 nd_1_0_3000_4500 nd_1_0_5000_4500 0.016324
rd_1_2_0_4_2 nd_1_0_5000_4500 nd_1_0_7000_4500 0.016324
rd_1_2_0_4_3 nd_1_0_7000_4500 nd_1_0_9000_4500 0.016324
rd_1_2_0_5_0 nd_1_0_1000_5500 nd_1_0_3000_5500 0.016324
rd_1_2_0_5_1 nd_1_0_3000_5500 nd_1_0_5000_5500 0.016324
rd_1_2_0_5_2 nd_1_0_5000_5500 nd_1_0_7000_5500 0.016324
rd_1_2_0_5_3 nd_1_0_7000_5500 nd_1_0_9000_5500 0.016324
rd_1_2_0_6_0 nd_1_0_1000_6500 nd_1_0_3000_6500 0.016324
rd_1_2_0_6_1 nd_1_0_3000_6500 nd_1_0_5000_6500 0.016324
rd_1_2_0_6_2 nd_1_0_5000_6500 nd_1_0_7000_6500 0.016324
rd_1_2_0_6_3 nd_1_0_7000_6500 nd_1_0_9000_6500 0.016324
rd_1_2_0_7_0 nd_1_0_1000_7500 nd_1_0_3000_7500 0.016324
rd_1_2_0_7_1 nd_1_0_3000_7500 nd_1_0_5000_7500 0.016324
rd_1_2_0_7_2 nd_1_0_5000_7500 nd_1_0_7000_7500 0.016324
rd_1_2_0_7_3 nd_1_0_7000_7500 nd_1_0_9000_7500 0.016324
rd_1_2_0_8_0 nd_1_0_1000_8500 nd_1_0_3000_8500 0.016324
rd_1_2_0_8_1 nd_1_0_3000_8500 nd_1_0_5000_8500 0.016324
rd_1_2_0_8_2 nd_1_0_5000_8500 nd_1_0_7000_8500 0.016324
rd_1_2_0_8_3 nd_1_0_7000_8500 nd_1_0_9000_8500 0.016324
rd_1_2_0_9_0 nd_1_0_1000_9500 nd_1_0_3000_9500 0.016324
rd_1_2_0_9_1 nd_1_0_3000_9500 nd_1_0_5000_9500 0.016324
rd_1_2_0_9_2 nd_1_0_5000_9500 nd_1_0_7000_9500 0.016324
rd_1_2_0_9_3 nd_1_0_7000_9500 nd_1_0_9000_9500 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_500 nd_2_0_1000_1500 0.016324
rd_2_1_0_0_1 nd_2_0_1000_1500 nd_2_0_1000_2500 0.016324
rd_2_1_0_0_2 nd_2_0_1000_2500 nd_2_0_1000_3500 0.016324
rd_2_1_0_0_3 nd_2_0_1000_3500 nd_2_0_1000_4500 0.016324
rd_2_1_0_0_4 nd_2_0_1000_4500 nd_2_0_1000_5500 0.016324
rd_2_1_0_0_5 nd_2_0_1000_5500 nd_2_0_1000_6500 0.016324
rd_2_1_0_0_6 nd_2_0_1000_6500 nd_2_0_1000_7500 0.016324
rd_2_1_0_0_7 nd_2_0_1000_7500 nd_2_0_1000_8500 0.016324
rd_2_1_0_0_8 nd_2_0_1000_8500 nd_2_0_1000_9500 0.016324
rd_2_1_0_1_0 nd_2_0_3000_500 nd_2_0_3000_1500 0.016324
rd_2_1_0_1_1 nd_2_0_3000_1500 nd_2_0_3000_2500 0.016324
rd_2_1_0_1_2 nd_2_0_3000_2500 nd_2_0_3000_3500 0.016324
rd_2_1_0_1_3 nd_2_0_3000_3500 nd_2_0_3000_4500 0.016324
rd_2_1_0_1_4 nd_2_0_3000_4500 nd_2_0_3000_5500 0.016324
rd_2_1_0_1_5 nd_2_0_3000_5500 nd_2_0_3000_6500 0.016324
rd_2_1_0_1_6 nd_2_0_3000_6500 nd_2_0_3000_7500 0.016324
rd_2_1_0_1_7 nd_2_0_3000_7500 nd_2_0_3000_8500 0.016324
rd_2_1_0_1_8 nd_2_0_3000_8500 nd_2_0_3000_9500 0.016324
rd_2_1_0_2_0 nd_2_0_5000_500 nd_2_0_5000_1500 0.016324
rd_2_1_0_2_1 nd_2_0_5000_1500 nd_2_0_5000_2500 0.016324
rd_2_1_0_2_2 nd_2_0_5000_2500 nd_2_0_5000_3500 0.016324
rd_2_1_0_2_3 nd_2_0_5000_3500 nd_2_0_5000_4500 0.016324
rd_2_1_0_2_4 nd_2_0_5000_4500 nd_2_0_5000_5500 0.016324
rd_2_1_0_2_5 nd_2_0_5000_5500 nd_2_0_5000_6500 0.016324
rd_2_1_0_2_6 nd_2_0_5000_6500 nd_2_0_5000_7500 0.016324
rd_2_1_0_2_7 nd_2_0_5000_7500 nd_2_0_5000_8500 0.016324
rd_2_1_0_2_8 nd_2_0_5000_8500 nd_2_0_5000_9500 0.016324
rd_2_1_0_3_0 nd_2_0_7000_500 nd_2_0_7000_1500 0.016324
rd_2_1_0_3_1 nd_2_0_7000_1500 nd_2_0_7000_2500 0.016324
rd_2_1_0_3_2 nd_2_0_7000_2500 nd_2_0_7000_3500 0.016324
rd_2_1_0_3_3 nd_2_0_7000_3500 nd_2_0_7000_4500 0.016324
rd_2_1_0_3_4 nd_2_0_7000_4500 nd_2_0_7000_5500 0.016324
rd_2_1_0_3_5 nd_2_0_7000_5500 nd_2_0_7000_6500 0.016324
rd_2_1_0_3_6 nd_2_0_7000_6500 nd_2_0_7000_7500 0.016324
rd_2_1_0_3_7 nd_2_0_7000_7500 nd_2_0_7000_8500 0.016324
rd_2_1_0_3_8 nd_2_0_7000_8500 nd_2_0_7000_9500 0.016324
rd_2_1_0_4_0 nd_2_0_9000_500 nd_2_0_9000_1500 0.016324
rd_2_1_0_4_1 nd_2_0_9000_1500 nd_2_0_9000_2500 0.016324
rd_2_1_0_4_2 nd_2_0_9000_2500 nd_2_0_9000_3500 0.016324
rd_2_1_0_4_3 nd_2_0_9000_3500 nd_2_0_9000_4500 0.016324
rd_2_1_0_4_4 nd_2_0_9000_4500 nd_2_0_9000_5500 0.016324
rd_2_1_0_4_5 nd_2_0_9000_5500 nd_2_0_9000_6500 0.016324
rd_2_1_0_4_6 nd_2_0_9000_6500 nd_2_0_9000_7500 0.016324
rd_2_1_0_4_7 nd_2_0_9000_7500 nd_2_0_9000_8500 0.016324
rd_2_1_0_4_8 nd_2_0_9000_8500 nd_2_0_9000_9500 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_500 nd_2_0_1000_500 0.005
rvd_1_0_0_1 nd_1_0_3000_500 nd_2_0_3000_500 0.005
rvd_1_0_0_2 nd_1_0_5000_500 nd_2_0_5000_500 0.005
rvd_1_0_0_3 nd_1_0_7000_500 nd_2_0_7000_500 0.005
rvd_1_0_0_4 nd_1_0_9000_500 nd_2_0_9000_500 0.005
rvd_1_0_1_0 nd_1_0_1000_1500 nd_2_0_1000_1500 0.005
rvd_1_0_1_1 nd_1_0_3000_1500 nd_2_0_3000_1500 0.005
rvd_1_0_1_2 nd_1_0_5000_1500 nd_2_0_5000_1500 0.005
rvd_1_0_1_3 nd_1_0_7000_1500 nd_2_0_7000_1500 0.005
rvd_1_0_1_4 nd_1_0_9000_1500 nd_2_0_9000_1500 0.005
rvd_1_0_2_0 nd_1_0_1000_2500 nd_2_0_1000_2500 0.005
rvd_1_0_2_1 nd_1_0_3000_2500 nd_2_0_3000_2500 0.005
rvd_1_0_2_2 nd_1_0_5000_2500 nd_2_0_5000_2500 0.005
rvd_1_0_2_3 nd_1_0_7000_2500 nd_2_0_7000_2500 0.005
rvd_1_0_2_4 nd_1_0_9000_2500 nd_2_0_9000_2500 0.005
rvd_1_0_3_0 nd_1_0_1000_3500 nd_2_0_1000_3500 0.005
rvd_1_0_3_1 nd_1_0_3000_3500 nd_2_0_3000_3500 0.005
rvd_1_0_3_2 nd_1_0_5000_3500 nd_2_0_5000_3500 0.005
rvd_1_0_3_3 nd_1_0_7000_3500 nd_2_0_7000_3500 0.005
rvd_1_0_3_4 nd_1_0_9000_3500 nd_2_0_9000_3500 0.005
rvd_1_0_4_0 nd_1_0_1000_4500 nd_2_0_1000_4500 0.005
rvd_1_0_4_1 nd_1_0_3000_4500 nd_2_0_3000_4500 0.005
rvd_1_0_4_2 nd_1_0_5000_4500 nd_2_0_5000_4500 0.005
rvd_1_0_4_3 nd_1_0_7000_4500 nd_2_0_7000_4500 0.005
rvd_1_0_4_4 nd_1_0_9000_4500 nd_2_0_9000_4500 0.005
rvd_1_0_5_0 nd_1_0_1000_5500 nd_2_0_1000_5500 0.005
rvd_1_0_5_1 nd_1_0_3000_5500 nd_2_0_3000_5500 0.005
rvd_1_0_5_2 nd_1_0_5000_5500 nd_2_0_5000_5500 0.005
rvd_1_0_5_3 nd_1_0_7000_5500 nd_2_0_7000_5500 0.005
rvd_1_0_5_4 nd_1_0_9000_5500 nd_2_0_9000_5500 0.005
rvd_1_0_6_0 nd_1_0_1000_6500 nd_2_0_1000_6500 0.005
rvd_1_0_6_1 nd_1_0_3000_6500 nd_2_0_3000_6500 0.005
rvd_1_0_6_2 nd_1_0_5000_6500 nd_2_0_5000_6500 0.005
rvd_1_0_6_3 nd_1_0_7000_6500 nd_2_0_7000_6500 0.005
rvd_1_0_6_4 nd_1_0_9000_6500 nd_2_0_9000_6500 0.005
rvd_1_0_7_0 nd_1_0_1000_7500 nd_2_0_1000_7500 0.005
rvd_1_0_7_1 nd_1_0_3000_7500 nd_2_0_3000_7500 0.005
rvd_1_0_7_2 nd_1_0_5000_7500 nd_2_0_5000_7500 0.005
rvd_1_0_7_3 nd_1_0_7000_7500 nd_2_0_7000_7500 0.005
rvd_1_0_7_4 nd_1_0_9000_7500 nd_2_0_9000_7500 0.005
rvd_1_0_8_0 nd_1_0_1000_8500 nd_2_0_1000_8500 0.005
rvd_1_0_8_1 nd_1_0_3000_8500 nd_2_0_3000_8500 0.005
rvd_1_0_8_2 nd_1_0_5000_8500 nd_2_0_5000_8500 0.005
rvd_1_0_8_3 nd_1_0_7000_8500 nd_2_0_7000_8500 0.005
rvd_1_0_8_4 nd_1_0_9000_8500 nd_2_0_9000_8500 0.005
rvd_1_0_9_0 nd_1_0_1000_9500 nd_2_0_1000_9500 0.005
rvd_1_0_9_1 nd_1_0_3000_9500 nd_2_0_3000_9500 0.005
rvd_1_0_9_2 nd_1_0_5000_9500 nd_2_0_5000_9500 0.005
rvd_1_0_9_3 nd_1_0_7000_9500 nd_2_0_7000_9500 0.005
rvd_1_0_9_4 nd_1_0_9000_9500 nd_2_0_9000_9500 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_500 0 107.816
rdesr_0_0_0_0 nd_1_0_1000_500 nd_1_0_1000_500_ci 107.816
cd_0_0_0_0 nd_1_0_1000_500_ci 0 1.85501e-11
rdload_0_0_0_1 nd_1_0_3000_500 0 68.5514
rdesr_0_0_0_1 nd_1_0_3000_500 nd_1_0_3000_500_ci 68.5514
cd_0_0_0_1 nd_1_0_3000_500_ci 0 2.91752e-11
rdload_0_0_0_2 nd_1_0_5000_500 0 79.8168
rdesr_0_0_0_2 nd_1_0_5000_500 nd_1_0_5000_500_ci 79.8168
cd_0_0_0_2 nd_1_0_5000_500_ci 0 2.50574e-11
rdload_0_0_0_3 nd_1_0_7000_500 0 1019.83
rdesr_0_0_0_3 nd_1_0_7000_500 nd_1_0_7000_500_ci 1019.83
cd_0_0_0_3 nd_1_0_7000_500_ci 0 1.96111e-12
rdload_0_0_0_4 nd_1_0_9000_500 0 73.2916
rdesr_0_0_0_4 nd_1_0_9000_500 nd_1_0_9000_500_ci 73.2916
cd_0_0_0_4 nd_1_0_9000_500_ci 0 2.72883e-11
rdload_0_0_0_5 nd_1_0_1000_1500 0 238.347
rdesr_0_0_0_5 nd_1_0_1000_1500 nd_1_0_1000_1500_ci 238.347
cd_0_0_0_5 nd_1_0_1000_1500_ci 0 8.39113e-12
rdload_0_0_0_6 nd_1_0_3000_1500 0 117.511
rdesr_0_0_0_6 nd_1_0_3000_1500 nd_1_0_3000_1500_ci 117.511
cd_0_0_0_6 nd_1_0_3000_1500_ci 0 1.70197e-11
rdload_0_0_0_7 nd_1_0_5000_1500 0 156.735
rdesr_0_0_0_7 nd_1_0_5000_1500 nd_1_0_5000_1500_ci 156.735
cd_0_0_0_7 nd_1_0_5000_1500_ci 0 1.27604e-11
rdload_0_0_0_8 nd_1_0_7000_1500 0 442.701
rdesr_0_0_0_8 nd_1_0_7000_1500 nd_1_0_7000_1500_ci 442.701
cd_0_0_0_8 nd_1_0_7000_1500_ci 0 4.51772e-12
rdload_0_0_0_9 nd_1_0_9000_1500 0 132.348
rdesr_0_0_0_9 nd_1_0_9000_1500 nd_1_0_9000_1500_ci 132.348
cd_0_0_0_9 nd_1_0_9000_1500_ci 0 1.51117e-11
rdload_0_0_0_10 nd_1_0_1000_2500 0 185.529
rdesr_0_0_0_10 nd_1_0_1000_2500 nd_1_0_1000_2500_ci 185.529
cd_0_0_0_10 nd_1_0_1000_2500_ci 0 1.078e-11
rdload_0_0_0_11 nd_1_0_3000_2500 0 93.4131
rdesr_0_0_0_11 nd_1_0_3000_2500 nd_1_0_3000_2500_ci 93.4131
cd_0_0_0_11 nd_1_0_3000_2500_ci 0 2.14103e-11
rdload_0_0_0_12 nd_1_0_5000_2500 0 152.972
rdesr_0_0_0_12 nd_1_0_5000_2500 nd_1_0_5000_2500_ci 152.972
cd_0_0_0_12 nd_1_0_5000_2500_ci 0 1.30743e-11
rdload_0_0_0_13 nd_1_0_7000_2500 0 84.4268
rdesr_0_0_0_13 nd_1_0_7000_2500 nd_1_0_7000_2500_ci 84.4268
cd_0_0_0_13 nd_1_0_7000_2500_ci 0 2.36892e-11
rdload_0_0_0_14 nd_1_0_9000_2500 0 417.564
rdesr_0_0_0_14 nd_1_0_9000_2500 nd_1_0_9000_2500_ci 417.564
cd_0_0_0_14 nd_1_0_9000_2500_ci 0 4.78969e-12
rdload_0_0_0_15 nd_1_0_1000_3500 0 182.201
rdesr_0_0_0_15 nd_1_0_1000_3500 nd_1_0_1000_3500_ci 182.201
cd_0_0_0_15 nd_1_0_1000_3500_ci 0 1.09769e-11
rdload_0_0_0_16 nd_1_0_3000_3500 0 92.1647
rdesr_0_0_0_16 nd_1_0_3000_3500 nd_1_0_3000_3500_ci 92.1647
cd_0_0_0_16 nd_1_0_3000_3500_ci 0 2.17003e-11
rdload_0_0_0_17 nd_1_0_5000_3500 0 115.077
rdesr_0_0_0_17 nd_1_0_5000_3500 nd_1_0_5000_3500_ci 115.077
cd_0_0_0_17 nd_1_0_5000_3500_ci 0 1.73797e-11
rdload_0_0_0_18 nd_1_0_7000_3500 0 71.3783
rdesr_0_0_0_18 nd_1_0_7000_3500 nd_1_0_7000_3500_ci 71.3783
cd_0_0_0_18 nd_1_0_7000_3500_ci 0 2.80197e-11
rdload_0_0_0_19 nd_1_0_9000_3500 0 406.817
rdesr_0_0_0_19 nd_1_0_9000_3500 nd_1_0_9000_3500_ci 406.817
cd_0_0_0_19 nd_1_0_9000_3500_ci 0 4.91622e-12
rdload_0_0_0_20 nd_1_0_1000_4500 0 129.306
rdesr_0_0_0_20 nd_1_0_1000_4500 nd_1_0_1000_4500_ci 129.306
cd_0_0_0_20 nd_1_0_1000_4500_ci 0 1.54671e-11
rdload_0_0_0_21 nd_1_0_3000_4500 0 175.115
rdesr_0_0_0_21 nd_1_0_3000_4500 nd_1_0_3000_4500_ci 175.115
cd_0_0_0_21 nd_1_0_3000_4500_ci 0 1.14211e-11
rdload_0_0_0_22 nd_1_0_5000_4500 0 284.092
rdesr_0_0_0_22 nd_1_0_5000_4500 nd_1_0_5000_4500_ci 284.092
cd_0_0_0_22 nd_1_0_5000_4500_ci 0 7.03996e-12
rdload_0_0_0_23 nd_1_0_7000_4500 0 147.534
rdesr_0_0_0_23 nd_1_0_7000_4500 nd_1_0_7000_4500_ci 147.534
cd_0_0_0_23 nd_1_0_7000_4500_ci 0 1.35562e-11
rdload_0_0_0_24 nd_1_0_9000_4500 0 214.172
rdesr_0_0_0_24 nd_1_0_9000_4500 nd_1_0_9000_4500_ci 214.172
cd_0_0_0_24 nd_1_0_9000_4500_ci 0 9.3383e-12
rdload_0_0_0_25 nd_1_0_1000_5500 0 100.829
rdesr_0_0_0_25 nd_1_0_1000_5500 nd_1_0_1000_5500_ci 100.829
cd_0_0_0_25 nd_1_0_1000_5500_ci 0 1.98355e-11
rdload_0_0_0_26 nd_1_0_3000_5500 0 127.034
rdesr_0_0_0_26 nd_1_0_3000_5500 nd_1_0_3000_5500_ci 127.034
cd_0_0_0_26 nd_1_0_3000_5500_ci 0 1.57438e-11
rdload_0_0_0_27 nd_1_0_5000_5500 0 89.9511
rdesr_0_0_0_27 nd_1_0_5000_5500 nd_1_0_5000_5500_ci 89.9511
cd_0_0_0_27 nd_1_0_5000_5500_ci 0 2.22343e-11
rdload_0_0_0_28 nd_1_0_7000_5500 0 593.154
rdesr_0_0_0_28 nd_1_0_7000_5500 nd_1_0_7000_5500_ci 593.154
cd_0_0_0_28 nd_1_0_7000_5500_ci 0 3.37181e-12
rdload_0_0_0_29 nd_1_0_9000_5500 0 145.545
rdesr_0_0_0_29 nd_1_0_9000_5500 nd_1_0_9000_5500_ci 145.545
cd_0_0_0_29 nd_1_0_9000_5500_ci 0 1.37415e-11
rdload_0_0_0_30 nd_1_0_1000_6500 0 82.0119
rdesr_0_0_0_30 nd_1_0_1000_6500 nd_1_0_1000_6500_ci 82.0119
cd_0_0_0_30 nd_1_0_1000_6500_ci 0 2.43867e-11
rdload_0_0_0_31 nd_1_0_3000_6500 0 124.016
rdesr_0_0_0_31 nd_1_0_3000_6500 nd_1_0_3000_6500_ci 124.016
cd_0_0_0_31 nd_1_0_3000_6500_ci 0 1.61269e-11
rdload_0_0_0_32 nd_1_0_5000_6500 0 169.843
rdesr_0_0_0_32 nd_1_0_5000_6500 nd_1_0_5000_6500_ci 169.843
cd_0_0_0_32 nd_1_0_5000_6500_ci 0 1.17756e-11
rdload_0_0_0_33 nd_1_0_7000_6500 0 259.562
rdesr_0_0_0_33 nd_1_0_7000_6500 nd_1_0_7000_6500_ci 259.562
cd_0_0_0_33 nd_1_0_7000_6500_ci 0 7.70527e-12
rdload_0_0_0_34 nd_1_0_9000_6500 0 556.011
rdesr_0_0_0_34 nd_1_0_9000_6500 nd_1_0_9000_6500_ci 556.011
cd_0_0_0_34 nd_1_0_9000_6500_ci 0 3.59705e-12
rdload_0_0_0_35 nd_1_0_1000_7500 0 203.611
rdesr_0_0_0_35 nd_1_0_1000_7500 nd_1_0_1000_7500_ci 203.611
cd_0_0_0_35 nd_1_0_1000_7500_ci 0 9.82265e-12
rdload_0_0_0_36 nd_1_0_3000_7500 0 97.5975
rdesr_0_0_0_36 nd_1_0_3000_7500 nd_1_0_3000_7500_ci 97.5975
cd_0_0_0_36 nd_1_0_3000_7500_ci 0 2.04923e-11
rdload_0_0_0_37 nd_1_0_5000_7500 0 1300.25
rdesr_0_0_0_37 nd_1_0_5000_7500 nd_1_0_5000_7500_ci 1300.25
cd_0_0_0_37 nd_1_0_5000_7500_ci 0 1.53816e-12
rdload_0_0_0_38 nd_1_0_7000_7500 0 249.341
rdesr_0_0_0_38 nd_1_0_7000_7500 nd_1_0_7000_7500_ci 249.341
cd_0_0_0_38 nd_1_0_7000_7500_ci 0 8.02113e-12
rdload_0_0_0_39 nd_1_0_9000_7500 0 108.079
rdesr_0_0_0_39 nd_1_0_9000_7500 nd_1_0_9000_7500_ci 108.079
cd_0_0_0_39 nd_1_0_9000_7500_ci 0 1.85049e-11
rdload_0_0_0_40 nd_1_0_1000_8500 0 139.012
rdesr_0_0_0_40 nd_1_0_1000_8500 nd_1_0_1000_8500_ci 139.012
cd_0_0_0_40 nd_1_0_1000_8500_ci 0 1.43872e-11
rdload_0_0_0_41 nd_1_0_3000_8500 0 80.1548
rdesr_0_0_0_41 nd_1_0_3000_8500 nd_1_0_3000_8500_ci 80.1548
cd_0_0_0_41 nd_1_0_3000_8500_ci 0 2.49517e-11
rdload_0_0_0_42 nd_1_0_5000_8500 0 121.141
rdesr_0_0_0_42 nd_1_0_5000_8500 nd_1_0_5000_8500_ci 121.141
cd_0_0_0_42 nd_1_0_5000_8500_ci 0 1.65097e-11
rdload_0_0_0_43 nd_1_0_7000_8500 0 73.9484
rdesr_0_0_0_43 nd_1_0_7000_8500 nd_1_0_7000_8500_ci 73.9484
cd_0_0_0_43 nd_1_0_7000_8500_ci 0 2.70459e-11
rdload_0_0_0_44 nd_1_0_9000_8500 0 87.3623
rdesr_0_0_0_44 nd_1_0_9000_8500 nd_1_0_9000_8500_ci 87.3623
cd_0_0_0_44 nd_1_0_9000_8500_ci 0 2.28932e-11
rdload_0_0_0_45 nd_1_0_1000_9500 0 503.091
rdesr_0_0_0_45 nd_1_0_1000_9500 nd_1_0_1000_9500_ci 503.091
cd_0_0_0_45 nd_1_0_1000_9500_ci 0 3.97542e-12
rdload_0_0_0_46 nd_1_0_3000_9500 0 193.386
rdesr_0_0_0_46 nd_1_0_3000_9500 nd_1_0_3000_9500_ci 193.386
cd_0_0_0_46 nd_1_0_3000_9500_ci 0 1.0342e-11
rdload_0_0_0_47 nd_1_0_5000_9500 0 321.809
rdesr_0_0_0_47 nd_1_0_5000_9500 nd_1_0_5000_9500_ci 321.809
cd_0_0_0_47 nd_1_0_5000_9500_ci 0 6.21486e-12
rdload_0_0_0_48 nd_1_0_7000_9500 0 119.473
rdesr_0_0_0_48 nd_1_0_7000_9500 nd_1_0_7000_9500_ci 119.473
cd_0_0_0_48 nd_1_0_7000_9500_ci 0 1.67402e-11
rdload_0_0_0_49 nd_1_0_9000_9500 0 73.0159
rdesr_0_0_0_49 nd_1_0_9000_9500 nd_1_0_9000_9500_ci 73.0159
cd_0_0_0_49 nd_1_0_9000_9500_ci 0 2.73913e-11

*-- intentional decap
cd_add_cap0 nd_1_0_3000_1500 nd0 'dcap_int_val130'
cd_add_cap1 nd_1_0_7000_1500 nd1 'dcap_int_val131'
cd_add_cap2 nd_1_0_3000_3500 nd2 'dcap_int_val132'
cd_add_cap3 nd_1_0_7000_3500 nd3 'dcap_int_val133'
cd_add_cap4 nd_1_0_3000_5500 nd4 'dcap_int_val134'
cd_add_cap5 nd_1_0_7000_5500 nd5 'dcap_int_val135'
cd_add_cap6 nd_1_0_3000_8500 nd6 'dcap_int_val136'
cd_add_cap7 nd_1_0_7000_8500 nd7 'dcap_int_val137'
rd_add0 nd0 0 'esr9'
rd_add1 nd1 0 'esr10'
rd_add2 nd2 0 'esr11'
rd_add3 nd3 0 'esr12'
rd_add4 nd4 0 'esr13'
rd_add5 nd5 0 'esr14'
rd_add6 nd6 0 'esr15'
rd_add7 nd7 0 'esr16'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_0_7 nd_pad_port_0_7 nd_pad_0_7 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_1_6 nd_pad_port_1_6 nd_pad_1_6 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_2_7 nd_pad_port_2_7 nd_pad_2_7 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_3_6 nd_pad_port_3_6 nd_pad_3_6 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_2500  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_4500  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_6500  0.001
rd_pad2via_0_7 nd_pad_0_7 nd_2_0_1000_8500  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1500  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_3500  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_5500  0.001
rd_pad2via_1_6 nd_pad_1_6 nd_2_0_3000_7500  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_2500  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_4500  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_6500  0.001
rd_pad2via_2_7 nd_pad_2_7 nd_2_0_5000_8500  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1500  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_3500  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_5500  0.001
rd_pad2via_3_6 nd_pad_3_6 nd_2_0_7000_7500  0.001

.ends chiplet2
